US09303023B2
To a solution of 4-nitro-1H-pyrazole (450 mg, 3.86 mmol) in acetone (15 mL), 3-fluorophenethyl bromide (784 mg, 3.86 mmol), K2CO3 (2.68 g, 19.301 mmol) and tetrabutylammonium bromide (120 mg, 0.38 mmol) was added. The white suspension was stirred at rt for 2 h, then the reaction mixture was diluted with H2O and EtOAc. The org. layer was separated and the aq. layer was extracted with EtOAc (1×). The combined org. layers were dried (MgSO4), filtered and the solvent was removed under reduced pressure. Purification of by FC (EtOAc/hept 3:7) gave 1-(3-fluorophenethyl)-4-nitro-1H-pyrazole as a off-white solid. LC-MS conditions B: tR=0.75 min, [M+H]+=no ionization.

reactant | 4-nitro-1H-pyrazole | 3.86 mmol, 450 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 3-fluorophenethyl bromide | 3.86 mmol, 784 mg | FC=1C=C(CCBr)C=CC1 | C8H8BrF
reactant | K2CO3 | 19.301 mmol, 2.68 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
catalyst | tetrabutylammonium bromide | 0.38 mmol, 120 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3-fluorophenethyl)-4-nitro-1H-pyrazole | FC=1C=C(CCN2N=CC(=C2)[N+](=O)[O-])C=CC1 | C11H10FN3O2
